US07968563B2
{1-Isobutyl-4-[(4-methoxybenzyl)amino]-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-2-yl}methanol (3.08 g, 8.36 mmol) was dissolved in trifluoroacetic acid (31 mL) and stirred at room temperature over night. The solvent was removed under reduced pressure and concentrated hydrochloric acid (5 mL) was added. The suspension was stirred for 2 hours, the solid was isolated by filtration and washed with water to give 1.95 g of (4-amino-1-isobutyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-2-yl)methanol as a tan powder.

reactant | {1-Isobutyl-4-[(4-methoxybenzyl)amino]-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-2-yl}methanol | 8.36 mmol, 3.08 g | C(C(C)C)N1C(=NC=2C(=NC(=C(C21)C)C)NCC2=CC=C(C=C2)OC)CO | C21H28N4O2
solvent | trifluoroacetic acid | 31 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (4-amino-1-isobutyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-2-yl)methanol | 1.95 g | NC1=NC(=C(C2=C1N=C(N2CC(C)C)CO)C)C | C13H20N4O
